US07420001B2
To 5-trifluoromethyl-benzothiazole-2-carboxylic acid sodium salt (260 mg, 0.97 mmol) was added (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid tert-butyl ester (469 mg, 1.2 eq), BOP (515 mg, 1.2 eq) and 5 mL of DMF. The mixture was stirred at room temperature overnight. The reaction mixture was poured into brine, and extracted with ethyl acetate. The combined organic layers were washed with brine and water. Removal of solvent gave the crude product, which was purified by column chromatography on silica gel to give 230 mg of (S)-3-methyl-2-{4′-[(5-trifluoromethyl-benzothiazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid tert-butyl ester as a white solid.

reactant | 5-trifluoromethyl-benzothiazole-2-carboxylic acid sodium salt | 0.97 mmol, 260 mg | [Na+].FC(C=1C=CC2=C(N=C(S2)C(=O)[O-])C1)(F)F
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid tert-butyl ester | 469 mg, 1.2 eq | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C21H28N2O4S
reactant | BOP | 515 mg, 1.2 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (S)-3-methyl-2-{4′-[(5-trifluoromethyl-benzothiazole-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-butyric acid tert-butyl ester | 230 mg | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1SC2=C(N1)C=C(C=C2)C(F)(F)F)=O | C30H30F3N3O5S2
